US05302720
N-Methyl-4-benzyloxyphenylcyanamide (3.6 g) was added to a suspension of 2-aminobiphenyl hydrochloride (3 g) in m-cresol (8 ml) and the mixture was heated at 90°-95° C. for 3 hours and then added to water. The aqueous layer was basified with solid sodium bicarbonate and extracted with ether. The extract was dried (Na2SO4) and the solvent removed to give a residue which was extracted into boiling hexane to yield N-(4-benzyloxyphenyl)-N'-(2-biphenylyl)-N-methylguanidine.

reactant | N-Methyl-4-benzyloxyphenylcyanamide | 3.6 g | CN(C#N)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H14N2O
reactant | 2-aminobiphenyl hydrochloride | 3 g | Cl.NC1=C(C=CC=C1)C1=CC=CC=C1
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | m-cresol | 8 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(4-benzyloxyphenyl)-N'-(2-biphenylyl)-N-methylguanidine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C(=N)NC1=C(C=CC=C1)C1=CC=CC=C1)C | C27H25N3O
